US06800648B2
{8-Formyl-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate
To a solution of {(2R)-7-[(methoxycarbonyl)amino]-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (5.12 g, 11.8 mmole) in tetrahydrofuran (400 mL) was added 2.42 mL of 4% aqueous osmium tetroxide (0.39 mmole). After 0.5 hour, sodium periodate (12.6 g, 59.1 mmole) in water (100 mL) was added dropwise over a period of 1 hour. The heterogeneous solution was stirred under nitrogen at room temperature overnight. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuum to yield the (R)-enantiomer of the title compound as a light beige solid (4.80 g, 97%).

reactant | {(2R)-7-[(methoxycarbonyl)amino]-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 11.8 mmole, 5.12 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)NC(=O)OC)C=CC | C21H23NO7S
reactant | sodium periodate | 59.1 mmole, 12.6 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
catalyst | osmium tetroxide | 0.39 mmole, 2.42 mL | [Os](=O)(=O)(=O)=O
product | {8-Formyl-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 4.80 g, 97% | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)NC(=O)OC)C=O | C19H19NO8S
